US03983130
Isothiocyanic acid, 2-(1-methyl-2-pyrrolyl)-5-benzoxazolyl ester
1.0 g of 5-amino-2-(1-methyl-2-pyrrolyl)benzoxazole (0.0047 mole) is dissolved in 50 ml of chloroform and slowly added to the following cold mixture: 0.54 g of thiophosgene (0.0047 mole), 0.47 g of calcium carbonate (0.0047 mole), 100 ml of chloroform and 25 ml of water. After the addition is complete the reaction is stirred at room temperature for 2 hr. The chloroform layer is separated, dried over anhyd. MgSO4 and evaporated under vacuum yielding a light brown solid. This material is crystallized from petroleum ether yielding 0.650 g of tan crystals, mp 105°-106° (54%).

reactant | 5-amino-2-(1-methyl-2-pyrrolyl)benzoxazole | 0.0047 mole, 1.0 g | NC=1C=CC2=C(N=C(O2)C=2N(C=CC2)C)C1 | C12H11N3O
reactant | thiophosgene | 0.0047 mole, 0.54 g | C(=S)(Cl)Cl | CCl2S
reactant | calcium carbonate | 0.0047 mole, 0.47 g | C([O-])([O-])=O.[Ca+2]
reactant | water | 25 ml | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | Isothiocyanic acid, 2-(1-methyl-2-pyrrolyl)-5-benzoxazolyl ester | CN1C(=CC=C1)C=1OC2=C(N1)C=C(C=C2)N=C=S | C13H9N3OS
